US09326973B2
To a suspension of benzyl 5,5-difluoro-2-methyltetrahydro-2H-pyran-2-carboxylate (0.22 g, 0.814 mmol) in MeOH (5 mL) was added 10% Pd/C (0.12 g). The reaction mixture was stirred under H2 for 1 h. The reaction was filtered and concentrated to dryness to yield 5,5-difluoro-2-methyltetrahydro-2H-pyran-2-carboxylic acid (100 mg). 1H NMR (400 MHz, CDCl3) δ ppm 3.79-3.91 (2H, m), 2.29-2.42 (1H, m), 2.12-2.26 (1H, m), 1.85-2.08 (2H, m), 1.54 (3H, s).

reactant | benzyl 5,5-difluoro-2-methyltetrahydro-2H-pyran-2-carboxylate | 0.814 mmol, 0.22 g | FC1(CCC(OC1)(C(=O)OCC1=CC=CC=C1)C)F | C14H16F2O3
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 0.12 g | [Pd] | Pd
product | 5,5-difluoro-2-methyltetrahydro-2H-pyran-2-carboxylic acid | 100 mg | FC1(CCC(OC1)(C(=O)O)C)F | C7H10F2O3
